US06515003B1
A mixture of 6-bromo-1-isopropyl-7-methyl-1,2,3,4-tetrahydro-quinoline (0.85 g, 3.16 mmol), 2-methoxy-5-formyl boronic acid (1.13 g, 6.31 mmol) and potassium carbonate (1.70 g, 12.64 mmol) in 1,2-dimethoxyethane (30 mL) and water (1.5 mL) was degassed with argon for 15 minutes. Tetrakis(triphenylphosphine)palladium(0) (0.80 g, 0.63 mmol) was added and the mixture heated at reflux under argon for 35 hours. The solution was cooled to room temperature, diluted with ethyl acetate and washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was chromatographed and silica gel (eluent: ethyl acetate/hexane, 1:9) to give 0.81 g of 3-(1-isopropyl-7-methyl-1,2,3,4-tetrahydro-6-quinolinyl)-4-methoxybenzaldehyde (79%). 1H NMR (500 MHz; CDCl3): δ1.18 (s, 3H); 1.20 (s, 3H); 1.94 (m, 2H); 2.06 (s, 3H); 2.72 (m, 2H); 3.18 (m, 2H); 3.85 (s, 3H); 4.16 (m, 1H); 6.57 (s, 1H); 6.78 (s, 1H); 7.02 (d, 1H); 7.69 (d, 1H); 7.34 (s, 1H); 7.84 (m, 1H); 9.89 (s, 1H).

reactant | 6-bromo-1-isopropyl-7-methyl-1,2,3,4-tetrahydro-quinoline | 3.16 mmol, 0.85 g | BrC=1C=C2CCCN(C2=CC1C)C(C)C | C13H18BrN
reactant | potassium carbonate | 12.64 mmol, 1.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
solvent | water | 1.5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.63 mmol, 0.80 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-isopropyl-7-methyl-1,2,3,4-tetrahydro-6-quinolinyl)-4-methoxybenzaldehyde | 0.81 g, 79% | C(C)(C)N1CCCC2=CC(=C(C=C12)C)C=1C=C(C=O)C=CC1OC | C21H25NO2
